Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
right foot infection

 
Major Surgical or Invasive Procedure:
Diagnostic Angio
 
History of Present Illness:
___ year old diabetic male presents with infected and likely
ischemic right ___ toe. He is admitted from Dr. ___
today. He is status post left lower extremity revascularization
at the ___ in ___. He has non-palpable
pulses in the right foot. He relates his blood sugars as being
high at home for the last few days. He denies f/c/n/v/sob/cp

 
Past Medical History:
VASCULAR HISTORY: Lower Extremity Bypass Graft, : LLE ___.
Other:  LLE Hallux amputation ___. 
PAST MEDICAL HISTORY: Diabetes since ___ yoa, HTN, CVA ___ years 
ago
s/p car accident

 
Social History:
___
Family History:
N/C
 
Physical Exam:
PHYSICAL EXAM
Vital Signs: Temp: 96.3 RR: 20 Pulse: 69 BP: 134/69  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
No hepatosplenomegally, No hernia, No AAA. 
Rectal: Not Examined. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, No LLE Edema, No varicosities, abnormal: Erythema to
mid right foot. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. ___: P. Other: Well-healed incisions. 
LUE Radial: P. Ulnar: P. Other: Well-healed incisions. 
RLE Femoral: P. Popiteal: P. DP: N. ___: D. 
LLE Femoral: P. Popiteal: N. DP: N. ___: D. Other: Well-healed
incisions. 

 
Pertinent Results:
___ 03:45PM BLOOD WBC-7.7 RBC-4.90 Hgb-13.5* Hct-40.1 
MCV-82 MCH-27.5 MCHC-33.5 RDW-12.6 Plt ___
___ 06:00AM BLOOD WBC-7.1 RBC-4.50* Hgb-12.5* Hct-36.4* 
MCV-81* MCH-27.8 MCHC-34.4 RDW-12.5 Plt ___
___ 05:40AM BLOOD WBC-7.3 RBC-4.37* Hgb-12.2* Hct-35.4* 
MCV-81* MCH-27.8 MCHC-34.3 RDW-12.8 Plt ___
___ 04:45AM BLOOD WBC-7.5 RBC-4.29* Hgb-12.0* Hct-34.8* 
MCV-81* MCH-28.1 MCHC-34.5 RDW-12.9 Plt ___
___ 03:45PM BLOOD Glucose-339* UreaN-32* Creat-1.1 Na-134 
K-4.3 Cl-96 HCO3-26 AnGap-16
___ 06:00AM BLOOD Glucose-133* UreaN-27* Creat-1.0 Na-137 
K-4.7 Cl-97 HCO3-33* AnGap-12
___ 05:40AM BLOOD Glucose-249* UreaN-23* Creat-1.0 Na-133 
K-4.0 Cl-95* HCO3-31 AnGap-11
___ 04:45AM BLOOD Glucose-122* UreaN-22* Creat-1.1 Na-137 
K-3.9 Cl-99 HCO3-28 AnGap-14
___ 03:45PM BLOOD Calcium-10.0 Phos-3.5 Mg-2.5
___ 06:00AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.2
 
Brief Hospital Course:
Mr. ___ was admitted ___ to the podiatry service for a 
right foot infection from Dr. ___.  He was started 
on broad spectrum IV antibiotics.  His vitals were stable on the 
floor. On ___, Dr. ___ a diagnostic angio.  

Pt put on IV antibiotics, had initial NIVS.

After the NIVS, Pt had angiogram.

OPERATIONS:
1. Ultrasound-guided puncture of the left common femoral
    artery.
2. Contralateral second-order catheterization of the right
    external iliac artery.
3. Abdominal aortogram.
4. Serial arteriogram of the right lower extremity.

No sequele from angiogram.

It was decided htat the pt would benefit from a BPG, He was then 
preop'd and consented for a fem to ___.

Underwent PICC placement for IV AB in ___, pt also has poor 
access.

Medicine consult was done to clear for surgery. Put on Bactrim 
for DC

On ___ pt went for BPG.

Pathway initiated post operative

POD #1, aline DC'd, Bedrest IV AB continued

POD #2, OOB to chair, foley DC'd, IV AB continued, PICC in place 
for poor access, pt autodiuresing, NWB RLE

POD #3, IV AB's DC'd put on septra and cipro, recieved r ___ toe 
amp, ___ consult RLE healing sandle in place

POD #4, Pt cleared by ___, ready for home with ___

 
Medications on Admission:
cephalexin [Keflex]
sodium chloride [Saline Wound Wash]

 
Discharge Medications:
1. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
2. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. timolol maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
6. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. lisinopril 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
11. senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.  
12. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).  
13. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
q6h prn as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
15. dipyridamole-aspirin 200-25 mg Cap, ER Multiphase 12 hr Sig: 
One (1) Cap PO BID (2 times a day).  
16. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
17. citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
18. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
19. insulin regular hum U-500 conc 500 unit/mL Solution Sig: as 
per sliding scale  Injection as per sliding scale.  
20. Zofran 8 mg Tablet Sig: One (1) Tablet PO q6h prn as needed 
for nausea.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
right ___ and ___ necrosis and eythema
becreased flow to legs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___